US06949551B2
3-acetyl-1-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[4-(5-trifluoromethylpyrid-2-yloxy)butyloxy]benzene (No. 59)
Under an atmosphere of protective gas, 0.1 g of 3-acetyl-1-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-hydroxybenzene, 0.08 g of 4-(5-trifluoromethylpyrid-2-yloxy)butan-1-ol and 0.093 g triphenylphosphine were dissolved in 2 ml of dry tetrahydrofuran (THF). With ice-bath cooling, 56 μl of diethyl azodicarboxylate were added dropwise. After about 30 minutes, the ice-bath was removed, and the mixture was stirred at room temperature for 15 hours. The mixture was then concentrated under reduced pressure and the residue was taken up in a mixture of ethyl acetate and water. After shaking, the organic phase was isolated, dried and concentrated under reduced pressure. The crude product was purified chromatographically. Yield: 0.051 g (35%)

reactant | 3-acetyl-1-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-hydroxybenzene | 0.1 g | C(C)(=O)C=1C(=C(C=C(C1)OCC=C(Cl)Cl)Cl)O | C11H9Cl3O3
reactant | 4-(5-trifluoromethylpyrid-2-yloxy)butan-1-ol | 0.08 g | FC(C=1C=CC(=NC1)OCCCCO)(F)F | C10H12F3NO2
reactant | triphenylphosphine | 0.093 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 56 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-acetyl-1-chloro-5-(3,3-dichloroprop-2-enyloxy)-2-[4-(5-trifluoromethylpyrid-2-yloxy)butyloxy]benzene | C(C)(=O)C=1C(=C(C=C(C1)OCC=C(Cl)Cl)Cl)OCCCCOC1=NC=C(C=C1)C(F)(F)F | C21H19Cl3F3NO4
